US07994185B2
Step E: N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(tetrahydro-3-furanyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 51, Step B using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-3-furanyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (0.100 g, 0.181 mmol) and ammonia (7 N solution in MeOH, 3.88 mL, 27.1 mmol) the title compound was obtained as a light yellow solid (53 mg, 0.099 mmol, 55% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.90 (s, 1H), 7.99 (d, J=5.1 Hz, 1H), 7.62-7.79 (m, 1H), 7.40-7.49 (m, 1H), 7.36 (t, J=6.1 Hz, 1H), 7.17-7.33 (m, 3H), 6.78 (br. s., 2H), 5.84 (d, J=5.1 Hz, 1H), 3.96-4.09 (m, 1H), 3.73-3.95 (m, 4H), 2.34-2.47 (m, 1H), 2.05-2.22 (m, 1H). MS (ESI) 534.10 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-3-furanyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.181 mmol, 0.100 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1COCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H16ClF3N4O3S2
reactant | ammonia | 27.1 mmol, 7 N, 3.88 mL | N | H3N
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(tetrahydro-3-furanyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)C1COCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H18F3N5O3S2
